US08357635B2
Preparation of trans-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid {1-[2-(2,4-dichlorophenyl)-cyclopropyl]-ethyl}-methoxy-amide (compound 1.018 diastereomere A)
A solution of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride (80 mg; 0.41 mmol) in acetonitrile (1 ml) was added dropwise to a stirred mixture of trans-N-{1-[2-(2,4-dichlorophenyl)-cyclopropyl]-ethyl}-O-methyl-hydroxylamine diastereomere A (88 mg; 0.34 mmol), prepared as described in example P13 and DABCO (54 mg; 0.48 mmol) in acetonitrile (1 ml) at ambient temperature. The reaction mixture was stirred for 16 hours at ambient temperature. The solvent was removed in vacuo and the residue was purified by flash chromatography over silica gel (10 g) (eluent: n-hexane/ethyl acetate 1:1).

reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.41 mmol, 80 mg | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
reactant | trans-N-{1-[2-(2,4-dichlorophenyl)-cyclopropyl]-ethyl}-O-methyl-hydroxylamine | ClC1=C(C=CC(=C1)Cl)[C@H]1[C@@H](C1)C(C)NOC | C12H15Cl2NO
reactant | DABCO | 0.48 mmol, 54 mg | C1CN2CCN1CC2 | C6H12N2
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | trans-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid {1-[2-(2,4-dichlorophenyl)-cyclopropyl]-ethyl}-methoxy-amide | ClC1=C(C=CC(=C1)Cl)[C@H]1[C@@H](C1)C(C)N(C(=O)C=1C(=NN(C1)C)C(F)F)OC | C18H19Cl2F2N3O2
